US06350750B1
Part A: To a quantity of 4.76 g (20 mmol) of 2-methyl-4-hydroxy-8-bromo-quinoline (J.Org.Chem. 1964, pg 3548) 15 ml of phosphorous oxychloride was added under ice-cooling. After heating to 100° C. for 30 minutes and subsequent cooling residual phosphorous oxychloride was removed by evaporation. After addition of ice water to the residue the mixture was neutralized with ammonia and extracted with CH2Cl2. The organic layer was dried over magnesium sulphate and concentrated in vacuo. The resulting product was purified on a silicagel column using ethylacetate as eluent. A total of 5.0 g of 2-methyl-4-chloro-8-bromo-quinoline was obtained (97% yield)

reactant | 2-methyl-4-hydroxy-8-bromo-quinoline | 20 mmol, 15 ml, 4.76 g | CC1=NC2=C(C=CC=C2C(=C1)O)Br | C10H8BrNO
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-methyl-4-chloro-8-bromo-quinoline | 5.0 g, 97% yield | CC1=NC2=C(C=CC=C2C(=C1)Cl)Br | C10H7BrClN
